US07557114B2
(c) 5-Chloro-6-iodo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
To a stirred suspension of 10.4 mmol 5-chloro-6-iodo-2,3-dihydro-1H-isoindole in 30 ml dichloromethane was added 12.5 ml (Boc)2O and the mixture stirred at room temperature for 16 h. The resulting solution was concentrated in vacuo and the residue purified by chromatography (SiO2, heptane/ethyl acetate) to yield the title compound as an off-white solid. MS (m/e): 326.0 ({37Cl}[M+H− Me2C═CH2]+, 35%), 324.0 ({35Cl}[M+H− Me2C═CH2]+, 100%).

reactant | 5-chloro-6-iodo-2,3-dihydro-1H-isoindole | 10.4 mmol | ClC=1C=C2CNCC2=CC1I | C8H7ClIN
reactant | (Boc)2O | 12.5 ml | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 5-Chloro-6-iodo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)Cl)I | C13H15ClINO2
